US07902308B2
3.1—Synthesis of 2,4-bis(tert-butyl)-6-[[(2,6-dichlorophenyl)imino]methyl]phenol
An analogous procedure was employed to that described above for the synthesis of 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)imino]methyl]phenol, using 2,6-dichloroaniline (1.03 g, 6.4 mmol) and 3,5-di-tert-butyl-2-hydroxybenzaldehyde (1.5 g, 6.4 mmol). The product was purified by recrystallisation from hot ethanol and the product isolated as yellow crystals. Yield 1.87 g, 77%.

reactant | 2,4-bis(tert-butyl)-6-[[(2,6-dibromophenyl)imino]methyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=NC1=C(C=CC=C1Br)Br)O | C21H25Br2NO
reactant | 2,6-dichloroaniline | 6.4 mmol, 1.03 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | 3,5-di-tert-butyl-2-hydroxybenzaldehyde | 6.4 mmol, 1.5 g | C(C)(C)(C)C=1C(=C(C=O)C=C(C1)C(C)(C)C)O | C15H22O2
product | 2,4-bis(tert-butyl)-6-[[(2,6-dichlorophenyl)imino]methyl]phenol | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)C=NC1=C(C=CC=C1Cl)Cl)O | C21H25Cl2NO
